US07645784B2
To a suspension of sodium perborate tetrahydrate (7.69 g, 50 mmol) in acetic acid (30 mL) a solution of 3-amino-2-nitrobenzotrifluoride (2.06 g, 10 mmol) in acetic acid (25 mL) was added dropwise at 55° C. over 1.5 h. The mixture was stirred at 55° C. overnight. Precipitated material was filtered off, and the filtrate was concentrated in vacuo. The residue was suspended in 2 M hydrochloric acid and filtered. The precipitate was washed with 2 M hydrochloric acid and water, and then dried in vacuum at room temperature affording a yellow solid, 1.14 g. This material was suspended in ethanol (10 mL), and a solution of ethanolarine (1.10 g, 18.1 mmol) in ethanol (10 mL) was added. The reaction mixture was heated at reflux for 20 min, and then allowed to cool to room temperature. The volatiles were removed in vacuo. The residue was purified by column chromatography on silica using heptane/ethyl acetate, 80:20 as an eluent affording 0.72 g (29% yield) of 2-{[2-nitro-6-(trifluoromethyl)phenyl]amino}ethanol as an orange oil. MS (ESI) m/z 249 (M−H]. 1H NMR (400 MHz, CDCl3) δ ppm 3.38-3.34 (m, 2H), 3.85-3.82 (m, 2H), 6.88-6.84 (m, 2H), 7.77 (dd, J=7.8, 1.3 Hz, 1H), 8.11 (dd, J=8.3, 1.5 Hz, 1H).

reactant | sodium perborate tetrahydrate | 50 mmol, 7.69 g | B1(OO1)[O-].O.O.O.O.[Na+]
reactant | 3-amino-2-nitrobenzotrifluoride | 10 mmol, 2.06 g | NC=1C(=C(C=CC1)C(F)(F)F)[N+](=O)[O-] | C7H5F3N2O2
reactant | acetic acid | 30 mL | C(C)(=O)O | C2H4O2
reactant | acetic acid | 25 mL | C(C)(=O)O | C2H4O2
solvent | ethanol | 10 mL | C(C)O | C2H6O
solvent | ethanol | 10 mL | C(C)O | C2H6O
product | 2-{[2-nitro-6-(trifluoromethyl)phenyl]amino}ethanol | 0.72 g, 29% yield | [N+](=O)([O-])C1=C(C(=CC=C1)C(F)(F)F)NCCO | C9H9F3N2O3
